US05221671
1-Benzyloxycarbonyl-4-(formylmethyl)piperidine
159 g of oxalic acid chloride was dissolved in one liter of dichloromethane, in to which 195.8 g of dimethyl sulfoxide was dropped at -67° C., followed by agitation for 30 minutes. Thereafter, 200 ml of dichloromethane dissolving 66 g of 1-benzyloxycarbonyl-4-(2-hydroxyethyl)piperidine was dropped at -67° C. Subsequently, 380 g of triethylamine was dropped at -67° C., followed by agitation for about 1 hour. After removal of the solvent by distillation, ethyl acetate was added and insoluble matters were removed by filtration, and the resultant filtrate was washed with water and dried with anhydrous magnesium sulfate, followed by filtration and removal of the solvent by distillation. The resultant residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:hexane=20:80) to obtain 55.0 g of the captioned compound (yield 84%).

reactant | oxalic acid chloride | 159 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 195.8 g | CS(=O)C | C2H6OS
reactant | 1-benzyloxycarbonyl-4-(2-hydroxyethyl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCO | C15H21NO3
reactant | triethylamine | 380 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | one liter | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml, 66 g | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-4-(formylmethyl)piperidine | 55.0 g, yield 84% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CC=O | C15H19NO3
